US07759367B2
3-(4-Chlorophenylthio)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one
25 mg of 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one was dissolved in 20 ml of dimethylformamide. To the mixture were added 17 mg of 4-chlorothiophenol, 3 mg of sodium hydroxide and 2 mg of copper iodide, followed by stirring at 150° C. in nitrogen atmosphere overnight. After cooling to room temperature, the reaction mixture was poured into water. An aqueous ammonia was added thereto, followed by extracting with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 8 mg of the title compound.

reactant | 3-bromo-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 25 mg | BrC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C16H11BrN2O
reactant | 4-chlorothiophenol | 17 mg | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | sodium hydroxide | 3 mg | [OH-].[Na+]
reactant | ammonia | N | H3N
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | copper iodide | 2 mg | [Cu](I)I
solvent | water | O | H2O
product | 3-(4-Chlorophenylthio)-5-(2-pyridyl)-1-phenyl-1,2-dihydropyridin-2-one | 8 mg | ClC1=CC=C(C=C1)SC=1C(N(C=C(C1)C1=NC=CC=C1)C1=CC=CC=C1)=O | C22H15ClN2OS
